US04956359
N-(2-Methyl-2-propenyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred solution of 3.6 g (0.022 mole) of 1,1'-carbonyldiimidazole in 75 ml of methylene chloride under nitrogen was treated with 1.6 g (0.022 mole) of 2-methyl-2-propenylamine (added via a syringe and needle through a septum placed in one neck of the reaction flask). After stirring for 1 hr, 6.2 g (0.02 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate was added all at once followed in 30 min with 5 ml of triethylamine and stirring was continued for 3 hr. The reaction mixture was washed with water (2×25 ml), dried over magnesium sulfate and concentrated in vacuo. The oily residue solidified on standing and was recrystallized from isopropyl ether to yield 3.7 g (58.9%) of fine white crystals, m.p. 101°-102° C.

reactant | 1,1'-carbonyldiimidazole | 0.022 mole, 3.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-methyl-2-propenylamine | 0.022 mole, 1.6 g | CC(CN)=C | C4H9N
reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C1=CC=C(OC2CNC2)C=C1)(F)F
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Methyl-2-propenyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.7 g, 58.9% | CC(CNC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F)=C | C15H17F3N2O2
